US09260375B2
2-(4-Carboxybenzyl)-3-isopropylmaleic acid dimethyl ester
To a suspension of 2-(4-formylbenzyl)-3-isopropylmaleic acid dimethyl ester (79 mg, 0.259 mmol) in a mixed solvent of dioxane (3.0 mL) and water (3.0 mL) were added amide sulfate (38 mg, 0.39 mmol) and sodium chlorite (35 mg, 0.39 mmol) with stirring under ice cooling, and the mixture was stirred for 30 min. The reaction mixture was directly concentrated, and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 1:2) to give 80 mg of the title compound as oil (yield: 96%).

reactant | 2-(4-formylbenzyl)-3-isopropylmaleic acid dimethyl ester | 0.259 mmol, 79 mg | COC(\C(=C(/C(=O)OC)\C(C)C)\CC1=CC=C(C=C1)C=O)=O | C17H20O5
reactant | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
reactant | water | 3.0 mL | O | H2O
reactant | sodium chlorite | 0.39 mmol, 35 mg | Cl(=O)[O-].[Na+]
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(4-Carboxybenzyl)-3-isopropylmaleic acid dimethyl ester | 80 mg, yield: 96% | COC(\C(=C(/C(=O)OC)\C(C)C)\CC1=CC=C(C=C1)C(=O)O)=O | C17H20O6
